US05360802
Step 2: 1-(Trifiuoromethylcarbonylaminosulphonyl)-3-amino benzene
In the same way as that described in Example 11, Step 2, using 1-(trifluoromethylcarbonylaminosulphonyl)-3-nitrobenzene (2.7 g, 9.1 mmol), 10% palladium on carbon (0.25 g, 9% (w/w)) in water (3 ml) and ethanol (70 ml), the title compound (1.7 g, 70%) was afforded as a colourless solid. mp 106°-108° C. 1H NMR (360 MHz, D6 -DMSO) δ 6.59 (1H, m), 6.88 (1H, m), 7.02 (2H, m).

reactant | 1-(trifluoromethylcarbonylaminosulphonyl)-3-nitrobenzene | 9.1 mmol, 2.7 g | FC(C(=O)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])(F)F | C8H5F3N2O5S
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
solvent | water | 3 ml | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 1-(Trifiuoromethylcarbonylaminosulphonyl)-3-amino benzene | 1.7 g, 70% | FC(C(=O)NS(=O)(=O)C1=CC(=CC=C1)N)(F)F | C8H7F3N2O3S
